US06468998B1
1-Azaadamantane-4-carbonyl chloride and (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine were reacted under the same conditions as in Example 53 to give (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-1-azaadamantane-4-carboxamide.

reactant | 1-Azaadamantane-4-carbonyl chloride | N12CC3C(C(CC(C1)C3)C2)C(=O)Cl | C10H14ClNO
reactant | (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F | C12H17FN2
product | (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-1-azaadamantane-4-carboxamide | FC1=CC=C(C=C1)CCN1CC(CC1)NC(=O)C1[C@H]2CN3CC(CC1C3)C2 | C22H30FN3O
